US04410536
1-Butyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
The compound is formed analogously to that described in Example 15, from 25.6 g of 3-butyl-5-hydrazinobenzothiophene hydrochloride and 20 g of 4-piperidone hydrochloride monohydrate. Melting point: 224°-225° C.

reactant | 3-butyl-5-hydrazinobenzothiophene hydrochloride | 25.6 g | Cl.C(CCC)C1=CSC2=C1C=C(C=C2)NN
reactant | 4-piperidone hydrochloride monohydrate | 20 g | O.Cl.N1CCC(CC1)=O
product | 1-Butyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | C(CCC)C1=CSC=2C1=C1C3=C(NC1=CC2)CCNC3 | C17H20N2S
